US07943619B2
bii) 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid
As described for example 112a, 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester (1.0 g, 4.23 mmol) was converted, instead of 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester, to the title compound (587 mg, 67%) which was obtained as a dark brown solid. MS: m/e=207.1 [M−H]−.

reactant | 3-(5-fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid ethyl ester | 4.23 mmol, 1.0 g | C(C)OC(=O)C=1C(=NOC1)C1=NC=C(C=C1)F | C11H9FN2O3
reactant | 5-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl | C16H12ClN3O4
product | 3-(5-Fluoro-pyridin-2-yl)-isoxazole-4-carboxylic acid | 587 mg, 67% | FC=1C=CC(=NC1)C1=NOC=C1C(=O)O | C9H5FN2O3
